US05025031
Sulfamic acid 3,5-difluorophenyl ester
Using the procedure of Example 56, the title compound was prepared using a mixture of 9.9 g (0.076 mole) of 3,5-difluorophenol and 7.0 ml (0.08 mole) of chlorosulfonyl isocyanate in 50 ml of toluene. The solid product was recrystallized from benzene to yield 11.7 g (74%) of white solid, mp 85°-88° C.

reactant | 3,5-difluorophenol | 0.076 mole, 9.9 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | chlorosulfonyl isocyanate | 0.08 mole, 7.0 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 3,5-difluorophenyl ester | FC=1C=C(C=C(C1)F)OS(N)(=O)=O | C6H5F2NO3S
